US07262185B2
2-bromo-4-methylpyridine (1.5 ml) was dissolved in diethylether (50 ml), and the mixture was cooled to −78° C. under argon atmosphere. 1.6M n-butyllithium hexane solution (8.3 ml) was added dropwise to the solution, and the mixture was stirred for 40 minutes. The reaction solution was added dropwise to a solution of 2-ethoxy-4-nitrobenzaldehyde (2.2 g) in tetrahydrofuran (200 ml) under argon atmosphere at −78° C. The mixture was allowed to be at room temperature and stirred overnight, and water was added to the mixture. The mixture was concentrated and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was evaporated. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give (2-ethoxy-4-nitrophenyl)(4-methylpyridin-2-yl)methanol (1.9 g) as brown crystals.

reactant | 2-bromo-4-methylpyridine | 1.5 ml | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | n-butyllithium hexane | 1.6M, 8.3 ml | CCCCCC.C(CCC)[Li]
reactant | 2-ethoxy-4-nitrobenzaldehyde | 2.2 g | C(C)OC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C9H9NO4
reactant | water | O | H2O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (2-ethoxy-4-nitrophenyl)(4-methylpyridin-2-yl)methanol | 1.9 g | C(C)OC1=C(C=CC(=C1)[N+](=O)[O-])C(O)C1=NC=CC(=C1)C | C15H16N2O4
